US05245056
465 g of methyl acetoacetate were added dropwise under nitrogen and stirring to 720 g of 30% sodium methylate solution in 1200 ml of methanol. Then, 727 g of 1-bromohexane were added and the reaction mixture was boiled at reflux for 20 hours. The majority of the methanol was distilled off and the residue was poured on to ice-water. The mixture was extracted with n-hexane and then with water. The organic phases were combined and dried over sodium sulphate. The solvent was evaporated and the crude ester was distilled. There were obtained 499.4 g of methyl 2-acetyloctanoate, b.p. 124°-128°/15 Torr.

reactant | methyl acetoacetate | 465 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium methylate | 720 g | C[O-].[Na+]
reactant | 1-bromohexane | 727 g | BrCCCCCC | C6H13Br
solvent | methanol | 1200 ml | CO | CH4O
product | methyl 2-acetyloctanoate | 499.4 g | C(C)(=O)C(C(=O)OC)CCCCCC | C11H20O3
